US05852017
f) 7-Acetamido-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione
29.0 g (0.111 mol) of 7-amino-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione were dissolved in 200 ml of acetic acid. A spatula tip of 4-(N,N-dimethylamino)pyridine was added and then 11.4 g (0.111 mol) of acetic anhydride were added dropwise. The mixture was stirred at room temperature for 30 minutes and then poured into ice-water, and the precipitate was filtered off with suction and dried to yield 22.5 g (67%) of the product.

reactant | 7-amino-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione | 0.111 mol, 29.0 g | NC1=CC=C2NC(C(N(C2=C1)CC(CC)CC)=O)=O | C14H19N3O2
reactant | acetic anhydride | 0.111 mol, 11.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | 4-(N,N-dimethylamino)pyridine | CN(C)C1=CC=NC=C1 | C7H10N2
product | 7-Acetamido-1-(2-ethylbutyl)-2,3(1H,4H)-quinoxalinedione | 22.5 g, 67% | C(C)(=O)NC1=CC=C2NC(C(N(C2=C1)CC(CC)CC)=O)=O | C16H21N3O3
